US09290490B2
Butyl trans-4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclohexanecarboxylate (150 mg, 0.482 mmol) was placed in a vial under an atmosphere of nitrogen and THF (2 mL) was added. Lithium aluminum hydride (3.5 M in THF, 0.270 mL, 0.945 mmol) was added. After 20 min of stirring at 23° C. the reaction was diluted carefully with methanol (5 mL) via dropwise addition. The resulting white suspension was filtered through CELITE, and the filtrate was concentrated to afford 1-[trans-4-(hydroxymethyl)cyclohexyl]-1-(1,3-thiazol-2-yl)ethanol, which was used in subsequent synthetic transformations without purification. MS ESI calc'd. for C12H19NO2S [M+H]+ 242. found 242.

reactant | Butyl trans-4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclohexanecarboxylate | 0.482 mmol, 150 mg | OC(C)(C=1SC=CN1)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C16H25NO3S
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | Lithium aluminum hydride | 0.945 mmol, 3.5 M, 0.270 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | methanol | 5 mL | CO | CH4O
product | 1-[trans-4-(hydroxymethyl)cyclohexyl]-1-(1,3-thiazol-2-yl)ethanol | OC[C@@H]1CC[C@H](CC1)C(C)(O)C=1SC=CN1 | C12H19NO2S
